US05510506
To 32.5 g of a toluene solution containing 9.40 g (30.0 mmol, E/Z=22/78) of α-methoxyimino-2-(2,5-dimethylphenoxymethyl)phenylacetic acid produced in accordance with Example 5-(1) and 0.132 g (1.8 mmol) of dimethylformamide was added dropwise 4.64 g (39.0 mmol) of thionyl chloride over 5 hours while keeping at 60°-65° C., and the reaction was subsequently allowed to proceed at the same temperature for 2 hours, which afforded 34.1 g of a toluene solution of α-methoxyimino-2-(2,5-dimethylphenoxymethyl)phenylacetyl chloride.

reactant | α-methoxyimino-2-(2,5-dimethylphenoxymethyl)phenylacetic acid | 30.0 mmol, 9.40 g | CON=C(C(=O)O)C1=C(C=CC=C1)COC1=C(C=CC(=C1)C)C | C18H19NO4
reactant | dimethylformamide | 1.8 mmol, 0.132 g | CN(C=O)C | C3H7NO
reactant | thionyl chloride | 39.0 mmol, 4.64 g | S(=O)(Cl)Cl | Cl2OS
solvent | toluene | 34.1 g | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 32.5 g | C1(=CC=CC=C1)C | C7H8
product | α-methoxyimino-2-(2,5-dimethylphenoxymethyl)phenylacetyl chloride | CON=C(C(=O)Cl)C1=C(C=CC=C1)COC1=C(C=CC(=C1)C)C | C18H18ClNO3
